US04762840
A stirred mixture of 2.47 g of ethyl-2-oxo-4-phenyl-2H-pyrimido[2,1-b]benzothiazole-8-acetate, 100 ml of methanol and a solution of 2.47 g of potassium carbonate in 20 ml of water was kept at ambient temperature overnight. The methanol was evaporated and the residue was diluted with water, then acidified with concentrated hydrochloric acid. The precipitate was collected, dried, and crystallized twice from methanol to obtain 1.72 g (75% yield) of 2-oxo-4-phenyl-2H-pyrimido[2,1-b]benzothiazole-8-acetic acid as yellow plates.

reactant | ethyl-2-oxo-4-phenyl-2H-pyrimido[2,1-b]benzothiazole-8-acetate | 2.47 g | C(C)OC(CC1=CC2=C(N3C(S2)=NC(C=C3C3=CC=CC=C3)=O)C=C1)=O | C20H16N2O3S
reactant | methanol | 100 ml | CO | CH4O
reactant | potassium carbonate | 2.47 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 20 ml | O | H2O
product | 2-oxo-4-phenyl-2H-pyrimido[2,1-b]benzothiazole-8-acetic acid | 1.72 g, 75% yield | O=C1N=C2SC3=C(N2C(=C1)C1=CC=CC=C1)C=CC(=C3)CC(=O)O | C18H12N2O3S
